US04224330
To lithium aluminum hydride (26.5 mmol) and 50 ml ether, at -20° under nitrogen, is slowly added methyl 5-chlorobenzothiophene-2-carboxylate (6 g, 26.5 mmol). The mixture is then stirred at -20° for 10 minutes. After no starting material is detectable by thin layer chromatography, the mixture is quenched with 1 ml water, 1 ml 15% NaOH, and 3 ml water at -20°. The mixture is allowed to warm to RT and stirred for 15 hours. The mixture was then filtered and solvent evaporated to give 5-chlorobenzothiophene-2-methanol.

reactant | lithium aluminum hydride | 26.5 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-chlorobenzothiophene-2-carboxylate | 26.5 mmol, 6 g | ClC=1C=CC2=C(C=C(S2)C(=O)OC)C1 | C10H7ClO2S
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-chlorobenzothiophene-2-methanol | ClC=1C=CC2=C(C=C(S2)CO)C1 | C9H7ClOS
